US06927230B2
To a suspension of 4-(1H-pyrrol-1yl)benzoic acid (337 mg, 1.8 mmol) in dichloromethane (3.5 mL), oxalyl chloride (0.157 mL, 1.8 mmol) and then dimethylformamide (10 microL) were added. The mixture was stirred overnight. The solvent was removed under reduced pressure. Pyridine (0.146 mL, 1.8 mmol) and a solution of 2,2,2-trifluoro-N′-(4-methoxyphenyl)ethanehydrazonamide (350 mg, 1.5 mmol) in 3.5 mL of dioxane were added to a suspension of the acyl chloride in 3.5 mL of dioxane. The mixture was refluxed with stirring for 3 hours. After cooling, the solvent was removed under reduced pressure and 0.1 N hydrochloric acid and dichloromethane were added to the residue. The organic layer was separated and the aqueous layer was extracted with dichloromethane. A combined layer was washed with 0.1 N hydrochloric acid and brine, and dried over magnesium sulfate. The solvent was removed under reduced pressure. The desired product was purified by silica gel column chromatography (hexane-ethyl acetate 8:1-5:1) to give 1-(4-methoxyphenyl)-5-[4-(1H-pyrrol-1yl)phenyl]-3-(trifluoromethyl)-1H-1,2,4-triazole (74 mg, 12.8% yield)

reactant | 4-(1H-pyrrol-1yl)benzoic acid | 1.8 mmol, 337 mg | N1(C=CC=C1)C1=CC=C(C(=O)O)C=C1 | C11H9NO2
reactant | oxalyl chloride | 1.8 mmol, 0.157 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | Pyridine | 1.8 mmol, 0.146 mL | N1=CC=CC=C1 | C5H5N
reactant | 2,2,2-trifluoro-N′-(4-methoxyphenyl)ethanehydrazonamide | 1.5 mmol, 350 mg | FC(C(N)=NNC1=CC=C(C=C1)OC)(F)F | C9H10F3N3O
solvent | dichloromethane | 3.5 mL | ClCCl | CH2Cl2
solvent | dioxane | 3.5 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 3.5 mL | O1CCOCC1 | C4H8O2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 1-(4-methoxyphenyl)-5-[4-(1H-pyrrol-1yl)phenyl]-3-(trifluoromethyl)-1H-1,2,4-triazole | 74 mg, 12.8% yield | COC1=CC=C(C=C1)N1N=C(N=C1C1=CC=C(C=C1)N1C=CC=C1)C(F)(F)F | C20H15F3N4O
